US08809525B2
6-(3,3-Dimethylpiperidin-1-yl)-5-phenyl-1,2,4-triazin-3-amine (54 mg, 10%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.50 g, 1.99 mmol) and 3,3-dimethylpiperidine (0.27 g, 2.39 mmol) according to the general procedure of Example 2.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.99 mmol, 0.50 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3,3-dimethylpiperidine | 2.39 mmol, 0.27 g | CC1(CNCCC1)C | C7H15N
product | 6-(3,3-Dimethylpiperidin-1-yl)-5-phenyl-1,2,4-triazin-3-amine | 54 mg, 10% | CC1(CN(CCC1)C1=C(N=C(N=N1)N)C1=CC=CC=C1)C | C16H21N5
